US08729079B2
c: Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-formyl-2-morpholinopyrimidine-5-carboxylate
(E)-ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-(2-(dimethylamino)vinyl)-2-morpholinopyrimidine-5-carboxylate (0.2 g, 0.336 mmol) was dissolved in methanol (4 mL) and to this mixture at room temperature was added a solution of sodium periodate (0.21 g, 1 mmol) in methanol (4 mL). The mixture was stirred at room temperature for 3 hours and the precipitate filtered. The filtrate was evaporated, diluted with water and extracted with EtOAc. The organic layer was dried over Na2SO4 and evaporated in vacuum. The crude product was purified by column chromatography over silica gel using acetone/dichloromethane as eluent. (0.11 g). 1H NMR (400 MHz, DMSO-d6): δ 10.07 (s, 1H), 10.02 (s, 1H), 7.59 (d, J=8.4 Hz, 2H), 7.30 (d, J=8.4 Hz, 2H), 4.31 (q, J=6.8 Hz, 2H), 3.83 (s, 2H), 3.75-3.65 (m, 8H), 3.33 (m, 4H), 2.32 (m, 4H), 1.38 (s, 9H), 1.31 (t, J=6.8 Hz, 3H); MS m/z 555.5 (M+1).

reactant | (E)-ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-(2-(dimethylamino)vinyl)-2-morpholinopyrimidine-5-carboxylate | 0.336 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)\C=C\N(C)C)N1CCOCC1 | C31H45N7O5
reactant | sodium periodate | 1 mmol, 0.21 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 4 mL | CO | CH4O
product | Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-formyl-2-morpholinopyrimidine-5-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)C=O)N1CCOCC1 | C28H38N6O6
